US06638646B2
a) Synthesis of 2-bromo-5-nitro-p-xylene
740 g of bromo-p-xylene were initially introduced in acetic anhydride (ice-bath cooling) and nitrating acid (prepared from 400 ml of fuming nitric acid and 480 ml of concentrated sulfuric acid) was slowly added dropwise. During the addition, it was ensured that the internal temperature remained between 22° C.-25° C. When the addition was complete (duration about 5 hours), the ice bath was removed, and the mixture was stirred at RT for about a further 1 hour.

reactant | bromo-p-xylene | 740 g | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | nitric acid | 400 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 480 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-bromo-5-nitro-p-xylene | BrC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8BrNO2
